* D:\Documents\GitHub\VLSI_LTSPICE_STUFF\Report\ANDgates.asc
M29 P001 B 0 0 TestN l=10u w=20u
M30 N002 A P001 0 TestN l=10u w=20u
M31 VCC A N002 VCC TestP l=10u w=40u
M32 VCC B N002 VCC TestP l=10u w=40u
M33 VCC N002 cmosouput N001 TestP l=10u w=40u
M34 cmosouput N002 0 N003 TestN l=10u w=20u
V1 VCC 0 1.8
V3 B 0 PULSE(0 1.8 20n 100p 100p 10n 20n)
V4 A 0 PULSE(0 1.8 1n 100p 100p 2n 5n)
M1 VCC B N004 VCC PMOS
M2 VCC A N004 VCC PMOS
M3 N004 A P002 0 NMOS
M4 P002 B 0 0 NMOS
M5 VCC N004 Ideal VCC PMOS
M6 Ideal N004 0 0 NMOS
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Manupa\AppData\Local\LTspice\lib\cmp\standard.mos
.MODEL TestN NMOS KP=96.379u VTO=0.786 LAMBDA=0.01 TOX=21.2n GAMMA=0.5863 CGDO=402.41p CGSO=402.41p CGBO=361.44p
.MODEL TestP PMOS KP=96.379u VTO=-0.9056 LAMBDA=0.01 TOX=21.2n GAMMA=0.4863 CGDO=53.752p CGSO=53.752p CGBO=336.5p
.tran 100n
.backanno
.end
